US07071182B2
dimethyl-[2-(6-nitro-indazol-1-yl)-ethyl]-amine
A mixture of 6-nitroindazole (2 g, 12 mmol) and potassium carbonate (5.1 g 37 mmol) in DMF (40 mL) for 30 minutes, followed by the addition of 2-(dimethylamino)ethylchloride hydrochloride (2.65 g 18.4 mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature, filtered through a plug of silica gel, which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to provide the title compound (1.8 g, 64% yield). 1H NMR (300 MHz, DMSO-d6) ppm 2.16 (s, 6H), 2.73 (t, J=6.44, 2H), 4.66 (t, J=6.44, 2H), 7.94 (m, 1H), 8.00 (m, 1H), 8.31 (m, 1H), 8.79 (m, 1H); MS (DCI/NH3) m/z 235 [M+H]+.

reactant | 6-nitroindazole | 12 mmol, 2 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | potassium carbonate | 37 mmol, 5.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(dimethylamino)ethylchloride hydrochloride | 18.4 mmol, 2.65 g | Cl.CN(CCCl)C
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | dimethyl-[2-(6-nitro-indazol-1-yl)-ethyl]-amine | 1.8 g, 64% yield | CN(CCN1N=CC2=CC=C(C=C12)[N+](=O)[O-])C | C11H14N4O2
